US08044068B2
A mixture of 4-(2-chloro-6-methylpyrimidin-4-yl)morpholine (180 mg), benzyl (3RS,4RS)-3-amino-4-fluoropyrrolidine-1-carboxylate (240 mg), Pd(OAc)2 (38 mg), 2-(di-t-butylphosphino)biphenyl (0.10 g), sodium t-butoxide (0.24 g), and toluene (2 mL) was heated to reflux under nitrogen atmosphere for 6 h. The reaction solution was extracted with chloroform and dried with anhydrous magnesium sulfate. The desiccant was removed by filtration, then the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=1:2) to obtain benzyl (3RS,4RS)-3-fluoro-4-(4-methyl-6-morpholin-4-ylpyrimidin-2-ylamino)pyrrolidine-1-carboxylate (25 mg).

reactant | 4-(2-chloro-6-methylpyrimidin-4-yl)morpholine | 180 mg | ClC1=NC(=CC(=N1)N1CCOCC1)C | C9H12ClN3O
reactant | benzyl (3RS,4RS)-3-amino-4-fluoropyrrolidine-1-carboxylate | 240 mg | NC1CN(CC1F)C(=O)OCC1=CC=CC=C1 | C12H15FN2O2
reactant | 2-(di-t-butylphosphino)biphenyl | 0.10 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 0.24 g | CC(C)([O-])C.[Na+]
catalyst | Pd(OAc)2 | 38 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl (3RS,4RS)-3-fluoro-4-(4-methyl-6-morpholin-4-ylpyrimidin-2-ylamino)pyrrolidine-1-carboxylate | 25 mg | FC1CN(CC1NC1=NC(=CC(=N1)C)N1CCOCC1)C(=O)OCC1=CC=CC=C1 | C21H26FN5O3
